US07851473B2
(5) 4-[4-(2,3-Dichlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (94.3 mg, 0.350 mmol), 1-[4-(2,3-dichlorophenyl)-1,3-thiazol-2-yl]piperazine (100 mg, 0.318 mmol) and diisopropylethylamine (0.111 ml, 0.636 mmol) in dimethyl sulfoxide (1.0 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and ethyl acetate to give 34.3 mg (24.8%) of the desired product as a solid. mp 132-133° C.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.350 mmol, 94.3 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(2,3-dichlorophenyl)-1,3-thiazol-2-yl]piperazine | 0.318 mmol, 100 mg | ClC1=C(C=CC=C1Cl)C=1N=C(SC1)N1CCNCC1 | C13H13Cl2N3S
reactant | diisopropylethylamine | 0.636 mmol, 0.111 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 1.0 ml | CS(=O)C | C2H6OS
product | 4-[4-(2,3-Dichlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide | 34.3 mg, 24.8% | ClC1=C(C=CC=C1Cl)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H17Cl2N5OS
